US05424440
The procedures used in FIG. 5 could not be applied to 4-MUP for two reasons. First, the background reading obtained from a 1 mM solution was off scale on the Turner model 111. If the concentration was reduced to 0.030 mM then the background reading was comparable to a 1 mM solution of BBTP or ABTP. Since the Km for 4-MUP in this buffer is approximately 30 micromolar then the turnover of 4-MUP is reduced thus lowering the sensitivity of the substrate for AP. It was found that with freshly prepared 30 micromolar solutions of 4-MUP that it gave approximately one half to one third the signal obtained with a 1.0 mM solution of BBTP. Secondly, it was found that basic aqueous solutions of 4-MUP containing magnesium cause the 4-MUP to hydrolyze and form 4-methyl umbelliferone. This results in a significant background increase. This limits the test to having the 4-MUP being reconstituted with buffer usually within 8 hours of use even when this solution is stored at 4° C.

reactant | 4-MUP | CC1=CC(=O)OC2=C1C=CC(=C2)OP(=O)(O)O | C10H9O6P
reactant | magnesium | [Mg] | Mg
product | 4-methyl umbelliferone | CC1=CC(=O)OC2=C1C=CC(=C2)O | C10H8O3
